US07838547B2
2-Benzyl-5-methyloctahydropyrrolo[3,4-c]pyrrole
A solution of 5-benzyl-2-methyltetrahydropyrrolo[3,4-c]pyrrole-1,3-dione (3.6 g) in THF (15 ml) was added dropwise to a suspension of lithium aluminum hydride (1.68 g) in THF (20 ml) while cooling in ice. The mixture was heated to reflux for 4 hours and then, at 0° C., water (1.8 ml), sodium hydroxide solution (10 M; 1.8 ml) and water (2.5 ml) were cautiously added. The precipitate was filtered off with suction and washed with ethyl acetate. The filtrate was concentrated. The product with the molecular weight of 216.33 (C14H2ON2); MS (ESI): 217 (M+H+) was obtained in this way.

reactant | 5-benzyl-2-methyltetrahydropyrrolo[3,4-c]pyrrole-1,3-dione | 3.6 g | C(C1=CC=CC=C1)N1CC2C(C1)C(N(C2=O)C)=O | C14H16N2O2
reactant | lithium aluminum hydride | 1.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.8 ml | O | H2O
reactant | sodium hydroxide | 10 M, 1.8 ml | [OH-].[Na+]
reactant | water | 2.5 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Benzyl-5-methyloctahydropyrrolo[3,4-c]pyrrole | C(C1=CC=CC=C1)N1CC2CN(CC2C1)C | C14H20N2
